US07491732B2
To a solution of 3-aminosulfonyl-4-fluoronitrobenzene (360 mg, 1.62 mmol) in dichloromethane (6 mL) and methanol (3 mL) was added 10% Pd/C (36 mg) and shaken under a hydrogen atmosphere at 50 psi for 15 minutes. The mixture was filtered through Celite and the cake was washed with methanol (5 mL). The combined organic solvent was concentrated under reduced pressure to give crude product, which was further purified by flash column chromatography (ethyl acetate:hexanes 1:1) to give 240 mg of 5-amino-2-fluorobenzensulfonamide as a light yellow solid. 1H NMR (DMSO-d6): δ 7.38 (s, 2H), 7.03-6.94 (m, 2H), 6.70-6.66 (m, 1H), 5.33 (s, 1H).

reactant | 3-aminosulfonyl-4-fluoronitrobenzene | 1.62 mmol, 360 mg | NS(=O)(=O)C=1C=C(C=CC1F)[N+](=O)[O-] | C6H5FN2O4S
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | methanol | 3 mL | CO | CH4O
catalyst | Pd/C | 36 mg | [Pd] | Pd
product | 5-amino-2-fluorobenzensulfonamide | 240 mg | NC=1C=CC(=C(C1)S(=O)(=O)N)F | C6H7FN2O2S
